US09399624B2
(R)-quinuclidin-3-ol (0.66 g, 5.2 mmol) and sodium hydride (0.21 g, 0.52 mmol, 60%) are dissolved in anhydrous toluene and stirred for 1 hour at 80° C. A solution of propyl (1s)-1-phenyl-3,4-dihydro-2(1H)-isoquinoline-carboxylate (1.4 g, 4.75 mmol) in toluene (10 ml) is added and refluxed for 18 hours. Isopropyl alcohol is removed from the solution by azeotropic distillation during which toluene is necessarily added. The reaction is cooled to ambient temperature when propyl carboxylate is consumed completely according to TLC analysis. The toluene is washed with water and aq. HCl (1N)(10 ml), the organic phase is separated. Saturated sodium bicarbonate (20 ml) is added to the aqueous phase, then extracted with ethyl acetate (20 ml). The combined organic phase is dried over anhydrous sodium sulfate, filtered, and concentrated to afford yellow oil as crude Solifenacin base, 1.1 g, 63.9% with the following characteristics: HPLC: 95.8%; Chiral Purity: 99%; MS (ESI): m/z 363.2 (M+H+); 1-H-NMR (400 M, CDCl3): δ 7.32-7.17 (m, 9H), 6.55-6.17 (m, 1H), 4.20-2.90 (m, 1H), 3.36-2.86 (br, 10H), 2.18-1.47 (m, 5H).

reactant | (R)-quinuclidin-3-ol | 5.2 mmol, 0.66 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | sodium hydride | 0.52 mmol, 0.21 g | [H-].[Na+]
reactant | propyl (1s)-1-phenyl-3,4-dihydro-2(1H)-isoquinoline-carboxylate | 4.75 mmol, 1.4 g | C1(=CC=CC=C1)[C@@H]1N(CCC2=CC=CC=C12)C(=O)OCCC | C19H21NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Solifenacin | C=1C=CC(=CC1)[C@H]2C=3C=CC=CC3CCN2C(=O)O[C@H]4CN5CCC4CC5 | C23H26N2O2
